* Operational amplifier
.subckt MyOpamp 1 2 3
.param pi=3.141592654
Ri 1 2 {Ri}
E1 a 0 value={Ao*V(1,2)}
R1 a b 1
C1 b 0 {1/( 2*pi*1*(FBW/Ao) )}
E2 c 0 value={v(b)}
Ro c 3 {Ro}
.ends MyOpamp